US07544697B2
Pyridine (40 mL, 492 mmol) was added in a single portion to a chilled solution (0° C.) solution of indole (48 g, 410 mmol) in diethyl ether (820 mL). Ethyl chlorooxoacetate (50 mL, 451 mmol) was added dropwise. The resulting suspension was allowed to warm to ambient temperature over a period of 20 hours. The solid was isolated by filtration and washed with diethyl ether. The solid was combined with water (1 L), stirred for 1 hour, and then isolated by filtration to provide 75 g of ethyl (1H-indol-3-yl)(oxo)acetate.

reactant | Pyridine | 492 mmol, 40 mL | N1=CC=CC=C1 | C5H5N
reactant | indole | 410 mmol, 48 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Ethyl chlorooxoacetate | 451 mmol, 50 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | diethyl ether | 820 mL | C(C)OCC | C4H10O
product | ethyl (1H-indol-3-yl)(oxo)acetate | 75 g | N1C=C(C2=CC=CC=C12)C(C(=O)OCC)=O | C12H11NO3
